US08202858B2
{4-[3-(4-Methanesulfonyl-piperazin-1-yl)-propoxy]-3-methyl-phenyl}-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone
A solution of methanesulfonyl chloride (0.57 mg, 0.005 mmol) in dichloromethane (0.05 ml) was added to a solution of (3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-[3-methyl-4-(3-piperazin-1-yl-propoxy)-phenyl]-methanone dihydrochloride (Compound number 408) (2.67 mg, 0.005 mmol) in dichloromethane (0.05 ml) and triethylamine (0.0035 ml). The mixture was stirred at room temperature for 1 h then solvents were removed in vacuo to yield the title compound. (ESI)+: [M+H]+=539.2

reactant | methanesulfonyl chloride | 0.005 mmol, 0.57 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | (3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-[3-methyl-4-(3-piperazin-1-yl-propoxy)-phenyl]-methanone dihydrochloride | 0.005 mmol, 2.67 mg | Cl.Cl.CN1N=CC=2CN(C3=C(NC12)C=CC=C3)C(=O)C3=CC(=C(C=C3)OCCCN3CCNCC3)C
solvent | dichloromethane | 0.05 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.05 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.0035 ml | C(C)N(CC)CC | C6H15N
product | {4-[3-(4-Methanesulfonyl-piperazin-1-yl)-propoxy]-3-methyl-phenyl}-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone | CS(=O)(=O)N1CCN(CC1)CCCOC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C | C27H34N6O4S
